US06156700
Preparation of 2'-Chloro-2-methoxy-5-methyl-5'-nitrobenzophenone
A mixture of aluminum chloride (33.3 g, 25.0 mmol) in methylene chloride is cooled to about 5° C., treated over one hour with p-methylanisole (31.6 g, 25.0 mmol) while maintaining the reaction mixture temperature below 10° C., treated over 20 minutes with a solution of 2-chloro-5-nitrobenzoyl chloride (50.0 g, 22.7 mmol) in methylene chloride while maintaining the reaction mixture temperature below 10° C., warmed to and stirred at room temperature for 60 minutes, and poured onto ice. The resultant aqueous mixture is treated with concentrated hydrochloric acid (50 mL) and extracted with methylene chloride. The organic extract is dried over anhydrous magnesium sulfate and concentrated in vacuo to give a yellow solid. After placing the solid in a Kugelrohr apparatus at 40° C. to remove residual p-methylanisole, the title product is obtained as a beige solid (68.8 g, 99.1%) which is identified by NMR spectral analyses.

reactant | aluminum chloride | 25.0 mmol, 33.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | p-methylanisole | 25.0 mmol, 31.6 g | CC1=CC=C(C=C1)OC | C8H10O
reactant | 2-chloro-5-nitrobenzoyl chloride | 22.7 mmol, 50.0 g | ClC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | hydrochloric acid | 50 mL | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2'-Chloro-2-methoxy-5-methyl-5'-nitrobenzophenone | ClC1=C(C=C(C=C1)[N+](=O)[O-])C(C1=C(C=CC(=C1)C)OC)=O | C15H12ClNO4
